US07576215B2
[4-[3-(1,3-BENZODIOXOL-5-YLMETHOXY)PHENYL]-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL](PHENYL)METHANONE
The title compound was prepared from [4-(3-hydroxyphenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone and 5-Bromomethyl-benzo[1,3]dioxole following the procedure of Example 478: MS (ESI) m/z 528; HRMS: calcd for C31H20F3NO4+H+, 528.14172; found (ESI, [M+H]+), 528.1435.

reactant | [4-(3-hydroxyphenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone | OC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H14F3NO2
reactant | 5-Bromomethyl-benzo[1,3]dioxole | BrCC1=CC2=C(OCO2)C=C1 | C8H7BrO2
product | [4-[3-(1,3-BENZODIOXOL-5-YLMETHOXY)PHENYL]-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL](PHENYL)METHANONE | O1COC2=C1C=CC(=C2)COC=2C=C(C=CC2)C2=C(C=NC1=C(C=CC=C21)C(F)(F)F)C(=O)C2=CC=CC=C2 | C31H20F3NO4
